US07538104B2
In a 500 ml three-necked flask, 41.08 g (0.2 mol) of 3-(3-([1,3]dioxolan-2-yl) propylamino)-1-aminobutane are added to 65 g of 33% strength hydrochloric acid and 100 ml of water and the mixture is stirred vigorously for three hours. It is then neutralized by dropwise addition of 100 ml of 30% strength sodium hydroxide solution, and the neutralized solution is subjected to extraction with CH2Cl2. The organic extracts are dried over sodium carbonate and concentrated. This gives 27.54 g of a reddish liquid. Distillation under a high vacuum (overhead temperature=34° C., p=0.006 mbar) gives 15.87 g of 1,5-diazabicyclo[4.3.0]nonane as a colourless oil.

reactant | 3-(3-([1,3]dioxolan-2-yl) propylamino)-1-aminobutane | 0.2 mol, 41.08 g | O1C(OCC1)CCCNC(CCN)C | C10H22N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 1,5-diazabicyclo[4.3.0]nonane | 15.87 g | N12CCCNC2CCC1 | C7H14N2
